US20010014737A1
c) Methyl (±)-3-carbomethoxy-4-[2-bis(tert-butoxycarbonyl)aminomethyl-4-methoxyphenyl ]-3-butenoate
A 500 mL flask was charged with 3-bis(tert-butoxycarbonyl)aminomethyl-4-bromoanisole (15 g, 36 mmol), dimethyl itaconate (7.5 g, 47 mmol), tri-o-tolylphosphine (1 g, 3 mol), palladium acetate (0.4 g, 2 mmol), diisopropylethylamine (12.8 mL, 72 mmol), and propionitrile (150 mL). The mixture was purged with argon (several evacuation/argon flush cycles), then was heated to reflux under argon for 1 hr. The reaction was allowed to cool to RT, then was poured into ice-cold ethyl ether (500 mL). The resulting precipitate was removed by filtration and the filtrate was concentrated. The residue was purified by chromatography on silica gel (10% - 20% ethyl acetate in hexane) to give the title compound (11.8 g, 66%) as a pale yellow oil: 1H NMR (CDCl3) δ7.94 (s, 1 H), 7.15 (d, J =8.1 Hz, 1 H)), 6.77 (d, J=8.1 Hz, 1 H), 6.76 (s, 1 H), 4.73 (s, 2 H), 3.81 (s, 3 H), 3.79 (s, 3 H), 3.71 (s, 3 H), 3.38 (s, 2 H), 1.45 (s, 18 H).

reactant | 3-bis(tert-butoxycarbonyl)aminomethyl-4-bromoanisole | 36 mmol, 15 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1Br)OC | C18H26BrNO5
reactant | dimethyl itaconate | 47 mmol, 7.5 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | tri-o-tolylphosphine | 3 mol, 1 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 72 mmol, 12.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | palladium acetate | 2 mmol, 0.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | propionitrile | 150 mL | C(CC)#N | C3H5N
product | Methyl (±)-3-carbomethoxy-4-[2-bis(tert-butoxycarbonyl)aminomethyl-4-methoxyphenyl ]-3-butenoate | 11.8 g, 66% | C(=O)(OC)C(CC(=O)OC)=CC1=C(C=C(C=C1)OC)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H35NO9
